US05252560
5-Methoxy-2-(dimethoxymethyl)benzaldehyde
A solution of the dimethyl acetal of p-anisaldehyde (5.3 g) in dry diethyl ether (90 mL) at 0° was treated with a 1.7 molar solution of t-butyl lithium (20.5 mL). The solution was stirred for 1.5 h at 0°, followed by addition of anhydrous dimethylformamide (2.9 mL). The solution was allowed to warm to 23° over 1 h, quenched by the addition of water, and extracted with ethyl acetate (2×200 mL). The combined organic layers were dried (MgSO4) and evaporated. The residue was purified by chromatography on silica using 90% hexane-ethyl acetate as eluent to afford the title compound as a pale yellow oil (2.63 g).

reactant | p-anisaldehyde | 5.3 g | C(C1=CC=C(C=C1)OC)=O | C8H8O2
reactant | t-butyl lithium | 20.5 mL | C(C)(C)(C)[Li]
reactant | dimethylformamide | 2.9 mL | CN(C=O)C | C3H7NO
reactant | diethyl ether | 90 mL | C(C)OCC | C4H10O
product | 5-Methoxy-2-(dimethoxymethyl)benzaldehyde | 2.63 g | COC=1C=CC(=C(C=O)C1)C(OC)OC | C11H14O4
